.title KiCad schematic
v2 Net-_v2-Pad1_ GND 15
Rf1 Net-_R2-Pad2_ output 5k
U1 input plot_v1
R2 input Net-_R2-Pad2_ 1k
v1 input GND sine
X1 Net-_X1-Pad1_ Net-_R2-Pad2_ GND Net-_v3-Pad1_ Net-_X1-Pad5_ output Net-_v2-Pad1_ unconnected-_X1-Pad8_ lm_741
U2 output plot_v1
Rl1 GND output 5k
v3 Net-_v3-Pad1_ GND -15
.end
