.title kicad schematic

.include lm_741.sub
v2 net-_v2-pad1_ gnd 15
rf1 net-_r2-pad2_ output 5k
* u1 input plot_v1
r2 input net-_r2-pad2_ 1k
v1 input gnd sine(0 2 50 0 0)
x1 net-_x1-pad1_ net-_r2-pad2_ gnd net-_v3-pad1_ net-_x1-pad5_ output net-_v2-pad1_ unconnected-_x1-pad8_ lm_741
* u2 output plot_v1
rl1 gnd output 5k
v3 net-_v3-pad1_ gnd -15
.tran 100e-06 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(input)
plot v(output)
.endc
.end
